US05821246
Using an analogous procedure to that described in Example 1, 4-amino-2-chlorophenyl 5-thiazolyl ketone was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 4-[3-chloro-4-(5-thiazolylcarbonyl)anilino]-6,7-dimethoxyquinazoline hydrochloride salt in 31% yield, m.p. 254°-257° C.;

reactant | 4-amino-2-chlorophenyl 5-thiazolyl ketone | S1C=NC=C1C(=O)C1=C(C=C(C=C1)N)Cl | C10H7ClN2OS
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 4-[3-chloro-4-(5-thiazolylcarbonyl)anilino]-6,7-dimethoxyquinazoline hydrochloride salt | 31% yield | Cl.ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1C(=O)C1=CN=CS1 | InChI=1S/C20H15ClN4O3S.ClH/c1-27-16-6-13-15(7-17(16)28-2)23-9-24-20(13)25-11-3-4-12(14(21)5-11)19(26)18-8-22-10-29-18;/h3-10H,1-2H3,(H,23,24,25);1H
